US08809380B2
Step 1. (R)-tert-butyl 2-((5-chloropyridin-3-yloxy)methyl)pyrrolidine-1-carboxylate
To a stirred solution of 5-chloropyridin-3-ol (1.46 g, 11.28 mmol), (R)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate (2.27 g, 11.28 mmol), and triphenylphosphine (2.96 g, 11.28 mmol) in THF (50 mL) was added di-tert-butyl azodicarboxylate (DTAD) (2.60 g, 11.28 mmol) at 0° C. The mixture was stirred at 0° C. for 1 h and warmed to room temperature. After being stirred at room temperature for 2 days, the mixture was concentrated in vacuo to afford a dark brown viscous oil. The residual oil was crystallized from isopropyl ether (IPE)-hexane, and formed precipitate was removed by filtration. The filtrate was concentrated in vacuo to afford a dark brown oil. The residual oil was purified by silica gel column chromatography (ethyl acetate/hexane 1:9 to 1:5) to afford crude 5.15 g (quant.) of the title compound as a colorless gel. The crude title compound was used for the next step without further purification.

reactant | 5-chloropyridin-3-ol | 11.28 mmol, 1.46 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | (R)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate | 11.28 mmol, 2.27 g | OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 11.28 mmol, 2.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 11.28 mmol, 2.60 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-((5-chloropyridin-3-yloxy)methyl)pyrrolidine-1-carboxylate | ClC=1C=C(C=NC1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21ClN2O3
